US09428528B2
Step 1 Preparation of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxymethyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone
To as solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (200 mg, 0.48 mmol) in toluene (3.2 ml) and ethanol (2.4 ml) is added (5-Bromo-pyridin-2-yl)-methanol (91 mg, 0.48 mmol); aqueous sodium bicarbonate solution (1.94 mmol, 2M, 1 ml) and [1,1′Bis(diphenylphosphino)ferrocene]dichloropalladium (II) (18 mg, 0.02 mmol). The reaction is heated at 80° C., under nitrogen, for 45 minutes. The reaction mixture is concentrated under reduced pressure and purified by column chromatography (40 g silica gel, 0-100% ethyl acetate/heptane) to give the title compound (92 mg): 1H NMR (400 MHz, CDCl3) 1.61-1.79 (m, 6H), 3.7-3.81 (m, 1H), 4.50-4.88 (m, 5H), 5.24-5.31 (m, 1H), 6.13 (t, 1H), 7.36 (d, 1H), 7.55 (d, 2H), 7.63 (d, 2H), 7.87-7.92 (m, 1H), 8.78-8.82 (m, 1H). m/z M+H 395.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 0.48 mmol, 200 mg | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | (5-Bromo-pyridin-2-yl)-methanol | 0.48 mmol, 91 mg | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | sodium bicarbonate | 1.94 mmol, 2M, 1 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 3.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.4 ml | C(C)O | C2H6O
catalyst | [1,1′Bis(diphenylphosphino)ferrocene]dichloropalladium (II) | 0.02 mmol, 18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxymethyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone | 92 mg | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CO)(C)C)F | C20H21F3N2O3
